US05096902
Preparation of 2-benzyl-1-phenyl-3-(3-thiazolidinyl)propan-1-one
A mixture containing 10.51 g (0.05 mol) of 1,3-diphenylpropan-1-one, 6.28 g (0.05 mol) of thiazolidine hydrochloride, 3.75 g (0.125 mol) of paraformaldehyde and 25 ml of 37% hydrochloric acid is stirred under reflux for 6 hours. After cooling down, 2.50 g of a white product precipitate from the reaction mixture which is unchanged thiazolidine hydrochloride. After evaporating the filtrate, the light yellow residue weighing 16.52 g is washed thoroughly 3 times with 20 ml of ether each. Thus, 7.80 g of a white powder-like substance are obtained which is suspended in water and the insoluble part is twice recrystallized from 2-propanol to obtain 3.50 g (20.1%) of hydrochloride of the title compound, m.p.: 134° C.

reactant | 1,3-diphenylpropan-1-one | 0.05 mol, 10.51 g | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)=O | C15H14O
reactant | thiazolidine hydrochloride | 0.05 mol, 6.28 g | Cl.S1CNCC1
reactant | paraformaldehyde | 0.125 mol, 3.75 g | C=O | CH2O
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | 2-benzyl-1-phenyl-3-(3-thiazolidinyl)propan-1-one | 7.80 g | C(C1=CC=CC=C1)C(C(=O)C1=CC=CC=C1)CN1CSCC1 | C19H21NOS
